US08404859B2
Preparation of (S)-3-Amino-2-({3-cyano-5-[(1H-indazol-4-ylmethyl)-carbamoyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester hydrochloride
A solution of (S)-3-tert-Butoxycarbonylamino-2-({3-cyano-5-[(1H-indazol-4-ylmethyl)-carbamoyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester (0.2008 g, 0.38 mmol)) and 4.0M Hydrogen Chloride in Dioxane (10 mL) and MeOH (3 ml) was stirred at room temperature 1.5 h and evaporated to give crude product which was used without further purification.

reactant | (S)-3-tert-Butoxycarbonylamino-2-({3-cyano-5-[(1H-indazol-4-ylmethyl)-carbamoyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester | 0.38 mmol, 0.2008 g | COC([C@H](CNC(=O)OC(C)(C)C)NC(=O)C=1SC(=CC1C#N)C(NCC1=C2C=NNC2=CC=C1)=O)=O | C24H26N6O6S
reactant | Hydrogen Chloride | 4.0M | Cl | ClH
solvent | Dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 3 ml | CO | CH4O
product | (S)-3-Amino-2-({3-cyano-5-[(1H-indazol-4-ylmethyl)-carbamoyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester hydrochloride | Cl.COC([C@H](CN)NC(=O)C=1SC(=CC1C#N)C(NCC1=C2C=NNC2=CC=C1)=O)=O | InChI=1S/C19H18N6O4S.ClH/c1-29-19(28)14(7-21)24-18(27)16-11(6-20)5-15(30-16)17(26)22-8-10-3-2-4-13-12(10)9-23-25-13;/h2-5,9,14H,7-8,21H2,1H3,(H,22,26)(H,23,25)(H,24,27);1H/t14-;/m0./s1
